US04829067
A mixture of 102 g of 5-chloro-2-hydroxybenzoic acid, 166 g of hexamethylenetetramine and 600 ml of trifluoroacetic acid is heated at 100° C. overnight. 2.95 liters of water and 1.48 liters of 10% hydrochloric acid are added to the mixture and said mixture is heated at the same temperature for 15 minutes. After cooling, the resultant crystals are collected by filtration to give 96.9 g of 5-chloro-3-formyl-2-hydroxybenzoic acid.

reactant | 5-chloro-2-hydroxybenzoic acid | 102 g | ClC=1C=CC(=C(C(=O)O)C1)O | C7H5ClO3
reactant | hexamethylenetetramine | 166 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | trifluoroacetic acid | 600 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrochloric acid | 1.48 liters | Cl | ClH
solvent | water | 2.95 liters | O | H2O
product | 5-chloro-3-formyl-2-hydroxybenzoic acid | 96.9 g | ClC=1C=C(C(=C(C(=O)O)C1)O)C=O | C8H5ClO4
